US07189742B2
(A) Preparation of diethyl 2-[2-cyano-5-(dimethylamino)-2-(3-methoxy-phenyl)-1,1-dimethylpentyl]propanedioate, monohydrochloride
A nitrogen atmosphere was applied to a reaction vessel and 50 ml of dry tetrahydrofuran is added. The solvent was cooled to less than −40° C. and 32 mmoles of lithium diisopropylamide in tetrahydrofuranne-heptane was added (16 ml of a 2 M solution). A solution of 6.97 g (30 mmoles) of α-[3-(dimethylamino)propyl]-3-methoxybenzeneacetonitrile in 30 ml of tetrahydrofuran was added at less than −20° C. and left at this temperature for 30 min. The mixture was then cooled to −50° C. and a solution of 6.62 g (33 mmoles) of diethyl isopropylidenemalonate in 30 ml of tetrahydrofuran was added to the reaction mixture at a rate such that the temperature did not exceed −50° C. The mixture was stirred at −50° C. for 30 min and the cold reaction mixture added to a stirred solution of 30 ml of aqueous hydrochloric acid (36% w/w) in 100 ml of water cooled to 10° C. The mixture was extracted twice with toluene and the toluene phase is back extracted with a solution of 2 ml of hydrochloric acid (36% w/w) in 8 ml of water. The aqueous acidic extract was combined with the aqueous acidic phase from above and extracted twice with 50 ml portions of methylene chloride. The combined methylene chloride extracts were washed with water and the methylene chloride phase filtered and concentrated to low volume by distillation at atmospheric pressure. A 100 ml portion of ethyl acetate was added and the resulting slurry cooled to 5–10° C. The resulting solid was collected by filtration, washed with ethyl acetate and dried at 50° C. to give 10.1 g of white powder.

reactant | lithium diisopropylamide | 32 mmoles | C(C)(C)[N-]C(C)C.[Li+]
reactant | α-[3-(dimethylamino)propyl]-3-methoxybenzeneacetonitrile | 30 mmoles, 6.97 g | CN(CCCC(C#N)C1=CC(=CC=C1)OC)C | C14H20N2O
reactant | diethyl isopropylidenemalonate | 33 mmoles, 6.62 g | C(C)(C)=C(C(=O)OCC)C(=O)OCC | C10H16O4
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | tetrahydrofuranne heptane | C1CCOC1.CCCCCCC
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | diethyl 2-[2-cyano-5-(dimethylamino)-2-(3-methoxy-phenyl)-1,1-dimethylpentyl]propanedioate, monohydrochloride | 10.1 g | Cl.C(#N)C(C(C)(C)C(C(=O)OCC)C(=O)OCC)(CCCN(C)C)C1=CC(=CC=C1)OC | InChI=1S/C24H36N2O5.ClH/c1-8-30-21(27)20(22(28)31-9-2)23(3,4)24(17-25,14-11-15-26(5)6)18-12-10-13-19(16-18)29-7;/h10,12-13,16,20H,8-9,11,14-15H2,1-7H3;1H
